US08735579B2
N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-hydroxy-4-methyl-benzamide
7.10 g 3-benzyloxy-N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-benzamide are hydrogenated in a mixture of 70 ml of methanol and 40 ml of tetrahydrofuran in the presence of 800 mg palladium on activated charcoal (10% Pd) at ambient temperature and 50 psi partial hydrogen pressure. Then the catalyst is suction filtered and the filtrate is evaporated down using the rotary evaporator. A white solid remains, which is reacted further without any further purification.

reactant | 3-benzyloxy-N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-benzamide | 7.10 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C27H32N2O5S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium on activated charcoal | 800 mg | [Pd] | Pd
product | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-hydroxy-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)O)=O)OC)NS(=O)(=O)C | C20H26N2O5S
